* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* CDL Netlist:                                              *
*                                                           *
* Cell Name  : DECAP2                                       *
* Netlisted  : Thu Nov 18 07:55:00 2021                     *
* PVS Version: 16.15-s010 Fri Jun 28 22:24:07 PDT 2019      *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
*.LDD
*.DEVTMPLT 0 MN(nmos3) _nmos1v _soi_nd(D) poly_conn(G) _soi_nsb(S) _soi_nsb(B)
*.DEVTMPLT 1 MP(pmos3) _pmos1v _soi_pd(D) poly_conn(G) _soi_psb(S) _soi_psb(B)

* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* Sub cell: M1_PO_CDNS_1                                    *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
.subckt M1_PO_CDNS_1 1
** N=1 EP=1 FDC=0
.ends M1_PO_CDNS_1

* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* Sub cell: nmos3_CDNS_2                                    *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
.subckt nmos3_CDNS_2 1 2 3
** N=3 EP=3 FDC=1
M0 2 3 2 2 nmos3 L=1e-06 W=8e-06 AD=2e-11 AS=0 PD=2.1e-05 PS=0 fw=8e-06 sa=2e-06 sb=2e-06 $X=7000 $Y=2000 $dt=0
.ends nmos3_CDNS_2

* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* Sub cell: pmos3_CDNS_3                                    *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
.subckt pmos3_CDNS_3 1 2 3
** N=4 EP=3 FDC=1
M0 2 3 2 2 pmos3 L=1e-06 W=8e-06 AD=2e-11 AS=0 PD=2.1e-05 PS=0 fw=8e-06 sa=2e-06 sb=2e-06 $X=7000 $Y=2000 $dt=1
.ends pmos3_CDNS_3

* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* Sub cell: DECAP2                                          *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
.subckt DECAP2 VDD! VSS!
** N=4 EP=2 FDC=4
X0 VDD! M1_PO_CDNS_1 $T=11800 35800 0 0 $X=9800 $Y=33800
X1 VSS! M1_PO_CDNS_1 $T=35800 33200 0 0 $X=33800 $Y=31200
X2 3 VSS! VDD! nmos3_CDNS_2 $T=7800 5000 0 0 $X=7800 $Y=5000
X3 3 VSS! VDD! nmos3_CDNS_2 $T=23800 5000 0 0 $X=23800 $Y=5000
X4 3 VDD! VSS! pmos3_CDNS_3 $T=7800 63800 1 0 $X=7800 $Y=41800
X5 3 VDD! VSS! pmos3_CDNS_3 $T=23800 63800 1 0 $X=23800 $Y=41800
.ends DECAP2
